US08710245B2
(e) Synthesis of N-methyl-1-(3-(trifluoromethyl)-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine
To a solution of 1-(2-bromo-3-(trifluoromethyl)-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)-N-methylmethanamine (5 mmol) in MeOH (5 mL) was added a catalytic amount of Pd/C. A vacuum was applied and the reaction vessel was back filled with hydrogen gas three times. The resulting mixture was stirred under atmospheric H2. After the reduction was completed, the reaction mixture was filtered and the filter cake was washed with methanol. The combined filtrate was concentrated and purified by column chromatography to give the desired product.

reactant | 1-(2-bromo-3-(trifluoromethyl)-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)-N-methylmethanamine | 5 mmol | BrC1=C(C=2C(OCCC2S1)CNC)C(F)(F)F | C10H11BrF3NOS
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-methyl-1-(3-(trifluoromethyl)-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine | CNCC1OCCC2=C1C(=CS2)C(F)(F)F | C10H12F3NOS
